US04352815
300 ml of 89 percent nitric acid are treated portionwise at room temperature over a period of 35 minutes with 94.5 g (496.8 mmol) of 3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione. The mixture is stirred at room temperature for 18 hours and poured into 3.5 l of ice-water. The precipitated material is filtered off under suction, washed with water and dried at 70° in vacuo. There is obtained 3,4-dihydro-4-methyl-7-nitro-2H-1,4-benzodiazepine-2,5(1H)-dione of melting point 252°-253°.

reactant | 3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione | 496.8 mmol, 94.5 g | CN1CC(NC2=C(C1=O)C=CC=C2)=O | C10H10N2O2
reactant | nitric acid | 300 ml | [N+](=O)(O)[O-] | HNO3
product | 3,4-dihydro-4-methyl-7-nitro-2H-1,4-benzodiazepine-2,5(1H)-dione | CN1CC(NC2=C(C1=O)C=C(C=C2)[N+](=O)[O-])=O | C10H9N3O4
